US09315542B2
(4S,7S,10S,13S,15S)-10-Benzyl-16-iodo-7,13-diisobutyl-15-methyl-1-morpholino-2,5,8,11,14-pentaoxo-4-phenethyl-3,6,9,12-tetraazahexadecan-15-yl 4-(((1-PEG20K/4-Arm-1H-1,2,3-triazol-4-yl)methyl)amino)-4-oxobutanoate 4-(((4-Methoxybenzyl)oxy)-4-oxobutanoic acid
To a solution of succinic anhydride (10 g, 0.1 mol) in CH3CN (200 mL) were added (4-methoxyphenyl)methanol (69.0 g, 0.5 mol) and DMAP (12.2 g, 0.1 mol). The reaction mixture was stirred for 3 h at about 30° C. and then diluted with water (700 mL). The resulting mixture was adjusted to pH=10 with saturated Na2CO3 solution and washed with ethyl acetate (300 mL×4) to remove an excess of (4-methoxyphenyl)methanol. The aqueous phase was adjusted to pH=2 with saturated citric acid solution and then extracted with ethyl acetate (200 mL×2). The combined extracts were dried over anhydrous Na2SO4 and concentrated to give product (21.0 g. 88% yield) as a white solid.

reactant | succinic anhydride | 0.1 mol, 10 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | (4-methoxyphenyl)methanol | 0.5 mol, 69.0 g | COC1=CC=C(C=C1)CO | C8H10O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH3CN | 200 mL | CC#N | C2H3N
catalyst | DMAP | 0.1 mol, 12.2 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 700 mL | O | H2O
product | ((4-Methoxybenzyl)oxy)-4-oxobutanoic acid | 88% yield | COC1=CC=C(COC(C(=O)O)CC=O)C=C1 | C12H14O5
